US07186742B2
2-Chloro-(1-hydroxy-cycloheptylmethyl)-5-(5-methyl-1H-pyrazol-3-yl)-benzamide
To a solution of 2-chloro-5-(5-methyl-1H-pyrazol-3-yl)-benzoic acid (100 mg, 0.422 mmol) in DMF (10 mL) was added 1-hydroxybenzotriazole (85 mg, 0.63 mmol), polystyrene supported 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide (1.24 g, 1.27 mmol) and 1-aminomethyl-cycloheptanol hydrochloride (113.4 mg, 0.633 mmol). The mixture was stirred at room temperature for 15 minutes, then polystyrene supported N,N-dimethylaminopyridine (0.64 g, 0.93 mmol) was added and the mixture was stirred at room temperature for 16 h. The mixture was filtered through a glass frit, and the residue was washed thoroughly with methanol. The filtrate was concentrated to dryness in vacuo. The residue was purified by reverse phase chormatography to afford the title compound as a white solid (40 mg). LC/MS (M/z): 362.5 (M+1).

reactant | 2-chloro-5-(5-methyl-1H-pyrazol-3-yl)-benzoic acid | 0.422 mmol, 100 mg | ClC1=C(C(=O)O)C=C(C=C1)C1=NNC(=C1)C | C11H9ClN2O2
reactant | 1-hydroxybenzotriazole | 0.63 mmol, 85 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide | 1.27 mmol, 1.24 g | CN(CCCN=C=NCC)C | C8H17N3
reactant | 1-aminomethyl-cycloheptanol hydrochloride | 0.633 mmol, 113.4 mg | Cl.NCC1(CCCCCC1)O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 2-Chloro-(1-hydroxy-cycloheptylmethyl)-5-(5-methyl-1H-pyrazol-3-yl)-benzamide | 40 mg | ClC1=C(C(=O)N)C=C(C=C1CC1(CCCCCC1)O)C1=NNC(=C1)C | C19H24ClN3O2
